### PR TITLE
feat: replace sorry in finrank_empty with a proof

### PR DESCRIPTION
**Pull request by kilianar**
We need `[Nontrivial R]` here: under the definition of rank via linearly independent sets, the trivial module over the trivial ring has rank one.

### CODE REVIEW

**Review by YaelDillies — APPROVED** [review]
LGTM. @martinwintermath ?

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Defs.lean [hunk 1]
```diff
@@ -34,10 +34,9 @@ noncomputable def rank (s : Set A) := Module.rank R (affineSpan R s).direction
 
 noncomputable def finrank (s : Set A) := Module.finrank R (affineSpan R s).direction
 
-lemma finrank_empty : finrank R (A := A) ∅ = 0 := by
-  simp [finrank, affineSpan, AffineSubspace.direction]
-  have : vectorSpan R (spanPoints R ∅ : Set V) = ⊥ := sorry
-  sorry
+lemma finrank_empty [Nontrivial R] : finrank R (A := A) ∅ = 0 := by
```
Comment (vlad902) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Defs.lean]: minor quibble that predates you, but nice to change
```suggestion
lemma finrank_empty [Nontrivial R] : finrank R (∅ : Set A) = 0 := by
```

Comment (kilianar) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Defs.lean]: Thanks!

**Comment by OliverNicolau** [comment]
Thanks @kilianar , will push the other sorry I have in a new PR
